US05399578
A solution of 2.9 g (6.8 mmol) of N-(1-benzyloxycarbonylcyclohexyl)-N-(2'-cyanobiphenyl-4-ylmethyl)-amine and 4.4 ml (26 mmol) of Hunig base in 50 ml of ethyl acetate is treated with 1.1 g (9 mmol) of pentanoyl chloride, and the mixture is heated to reflux for 24 hours. After cooling, the reaction mixture is treated with 20 ml of aqueous ammonia solution (2N) and stirred for 1 hour. The organic phase is separated, washed in succession with 2 N-hydrochloric acid, saturated sodium hydrogencarbonate solution and brine, dried and evaporated. The N-(1-benzyloxycarbonylcyclohexyl)-N-(2'-cyanobiphenyl-4-ylmethyl)-N-pentanoyl-amine is thus obtained in the form of a brown oil [Rf : 0.44 (toluene/methanol=19:1)], which is used for further reactions in crude form.

reactant | N-(1-benzyloxycarbonylcyclohexyl)-N-(2'-cyanobiphenyl-4-ylmethyl)-amine | 6.8 mmol, 2.9 g | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)NCC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C28H28N2O2
reactant | Hunig base | 26 mmol, 4.4 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | pentanoyl chloride | 9 mmol, 1.1 g | C(CCCC)(=O)Cl | C5H9ClO
reactant | ammonia | 2N, 20 ml | N | H3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(1-benzyloxycarbonylcyclohexyl)-N-(2'-cyanobiphenyl-4-ylmethyl)-N-pentanoyl-amine | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)N(C(CCCC)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C33H36N2O3
